US08426604B2
A. 1-Bromomethyl-4-methoxy-2-trifluoromethyl-benzene
A solution of (4-methoxy-2-trifluoromethyl-phenyl)-methanol (1.04 g, 5 mmol) in DCM (20 mL) was treated at 0° C. with phosphorous tribromide (1.64 g, 6 mmol). The reaction mixture was stirred for 10 minutes at 0° C., 1 h at room temperature. The solvent was evaporated in vacuo to yield a crude oil which was purified via flash chromatography (10% DCM in hexane) to yield the title compound as an oil (1.36 g, 100%).

reactant | (4-methoxy-2-trifluoromethyl-phenyl)-methanol | 5 mmol, 1.04 g | COC1=CC(=C(C=C1)CO)C(F)(F)F | C9H9F3O2
reactant | phosphorous tribromide | 6 mmol, 1.64 g | P(Br)(Br)Br | Br3P
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromomethyl-4-methoxy-2-trifluoromethyl-benzene | 1.36 g, 100% | BrCC1=C(C=C(C=C1)OC)C(F)(F)F | C9H8BrF3O
